*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2015-561
* Inductance = 560nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL2015-561_freq port1 port2 PARAMS: Cpar=0.18pF Ind=0.56uH
X1 port1 port2 Model1A PARAMS:
+ R1=40
+ R2=0.06
+ C= {Cpar}
+ K1=0.000001
+ K2=0.09
+ K3= {Ind}
+ K4=0.0039
+ K5=3.11E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1972.51719
.ends PFL2015-561_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2015-561
* Inductance = 560nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL2015-561_imp port1 port2 PARAMS: Cpar=0.177pF Ind=0.56uH
X1 port1 port2 Model1D PARAMS:
+ R1=40
+ R2=0.06
+ C= {Cpar}
+ K1=0.000001
+ K2=0.09
+ K3= {Ind}
+ K4=0.0039
+ K5=3.11E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1972.51719
.ends PFL2015-561_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2015-681
* Inductance = 680nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL2015-681_freq port1 port2 PARAMS: Cpar=0.16pF Ind=0.68uH
X1 port1 port2 Model1A PARAMS:
+ R1=65
+ R2=0.062
+ C= {Cpar}
+ K1=0.000025
+ K2=0.11
+ K3= {Ind}
+ K4=0.0136
+ K5=6.86E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2364.17611
.ends PFL2015-681_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2015-681
* Inductance = 680nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL2015-681_imp port1 port2 PARAMS: Cpar=0.149pF Ind=0.68uH
X1 port1 port2 Model1D PARAMS:
+ R1=65
+ R2=0.062
+ C= {Cpar}
+ K1=0.000025
+ K2=0.11
+ K3= {Ind}
+ K4=0.0136
+ K5=6.86E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2364.17611
.ends PFL2015-681_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2015-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL2015-102_freq port1 port2 PARAMS: Cpar=0.16pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=60
+ R2=0.11
+ C= {Cpar}
+ K1=0.000029
+ K2=0.17
+ K3= {Ind}
+ K4=0.02
+ K5=7.3E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3331.35272
.ends PFL2015-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2015-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL2015-102_imp port1 port2 PARAMS: Cpar=0.149pF Ind=1uH
X1 port1 port2 Model1D PARAMS:
+ R1=60
+ R2=0.11
+ C= {Cpar}
+ K1=0.000029
+ K2=0.17
+ K3= {Ind}
+ K4=0.02
+ K5=7.3E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3331.35272
.ends PFL2015-102_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2015-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.75GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL2015-222_freq port1 port2 PARAMS: Cpar=0.82pF Ind=2.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=12
+ R2=0.175
+ C= {Cpar}
+ K1=0.000001
+ K2=0.44
+ K3= {Ind}
+ K4=0.02
+ K5=8.8E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=4711.90636
.ends PFL2015-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2015-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.75GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL2015-222_imp port1 port2 PARAMS: Cpar=0.803pF Ind=2.2uH
X1 port1 port2 Model1D PARAMS:
+ R1=12
+ R2=0.175
+ C= {Cpar}
+ K1=0.000001
+ K2=0.44
+ K3= {Ind}
+ K4=0.02
+ K5=8.8E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=4711.90636
.ends PFL2015-222_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2015-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL2015-332_freq port1 port2 PARAMS: Cpar=1.8pF Ind=3.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=13
+ R2=0.255
+ C= {Cpar}
+ K1=0.000001
+ K2=0.78
+ K3= {Ind}
+ K4=0.056
+ K5=1.86E-07
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6084.7691
.ends PFL2015-332_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2015-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL2015-332_imp port1 port2 PARAMS: Cpar=1.724pF Ind=3.3uH
X1 port1 port2 Model1D PARAMS:
+ R1=13
+ R2=0.255
+ C= {Cpar}
+ K1=0.000001
+ K2=0.78
+ K3= {Ind}
+ K4=0.056
+ K5=1.86E-07
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6084.7691
.ends PFL2015-332_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2015-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL2015-472_freq port1 port2 PARAMS: Cpar=2.06pF Ind=4.7uH
X1 port1 port2 Model1A PARAMS:
+ R1=7
+ R2=0.275
+ C= {Cpar}
+ K1=0.0004
+ K2=1.1
+ K3= {Ind}
+ K4=0.092
+ K5=0.0000003
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7694.64443
.ends PFL2015-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2015-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL2015-472_imp port1 port2 PARAMS: Cpar=1.95pF Ind=4.7uH
X1 port1 port2 Model1D PARAMS:
+ R1=7
+ R2=0.275
+ C= {Cpar}
+ K1=0.0004
+ K2=1.1
+ K3= {Ind}
+ K4=0.092
+ K5=0.0000003
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7694.64443
.ends PFL2015-472_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2015-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL2015-682_freq port1 port2 PARAMS: Cpar=2pF Ind=6.8uH
X1 port1 port2 Model1A PARAMS:
+ R1=9
+ R2=0.34
+ C= {Cpar}
+ K1=0.00058
+ K2=1.5
+ K3= {Ind}
+ K4=0.15
+ K5=0.0000004
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9625.89213
.ends PFL2015-682_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2015-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL2015-682_imp port1 port2 PARAMS: Cpar=1.874pF Ind=6.8uH
X1 port1 port2 Model1D PARAMS:
+ R1=9
+ R2=0.34
+ C= {Cpar}
+ K1=0.00058
+ K2=1.5
+ K3= {Ind}
+ K4=0.15
+ K5=0.0000004
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9625.89213
.ends PFL2015-682_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
